US04636247
A mixture of pyridinium dichromate (49 g) and 2-(2,4-dichlorophenyl)hexan-5-ol (16 g) in dry dimethylformamide (100 ml) was stirred overnight at room temperature then poured into water and extracted with ether. The extracts were washed successively with dilute hydrochloric acid and water, then dried over magnesium sulphate and concentrated under reduced pressure to give almost pure 2-(2,4-dichlorophenyl)hex-1-en-5-one (14.5 g, 91%) as a yellow oil, 1H n.m.r. (CDCl3): δ2.18 (3H,s), 2.4-3.0 (4H,m), 5.15 (1H,s), 5.41 (1H,s), 7.2-7.6 (3H, m).

reactant | pyridinium dichromate | 49 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2-(2,4-dichlorophenyl)hexan-5-ol | 16 g | ClC1=C(C=CC(=C1)Cl)C(C)CCC(C)O | C12H16Cl2O
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenyl)hex-1-en-5-one | 14.5 g, 91% | ClC1=C(C=CC(=C1)Cl)C(=C)CCC(C)=O | C12H12Cl2O
